US08003806B2
(a) Ethyl 3-{5-[(3-aminobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate
To a solution of ethyl 3-{5-[(3-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (190 mg, 415 μmol) in a mixture of ethanol and water (4:1, 10 mL) was added palladium on carbon (38 mg, 10% w/w Pd) and ammonium formate (130 mg, 2.06 mmol). The suspension was heated to reflux for 2 hours, cooled to room temperature and filtered through a pad of Celite®. The filtrate was then evaporated in vacuo to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=3.85 min, MH+ 429].

reactant | ethyl 3-{5-[(3-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 415 μmol, 190 mg | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=CC1 | C25H22N4O5
reactant | ammonium formate | 2.06 mmol, 130 mg | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | palladium on carbon | 38 mg | [Pd] | Pd
product | Ethyl 3-{5-[(3-aminobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | NC=1C=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=CC1 | C25H24N4O3
